US07749992B2
Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-chloro-7-dimethylamino-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Combine isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-8-chloro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (0.075 g, 0.119 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.003 g, 0.0029 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (0.006 g, 0.012 mmol), sodium tert-butoxide (0.029 g, 0.298 mmol) and dimethylamine (0.071 mL, 0.143 mmol, 2.0 M in THF) in toluene (0.5 mL) in a 10 mL microwave vessel and irradiate at 110° C. for 20 min (50 W). Add a large excess of dimethylamine (2 mL, 4 mmol, 2.0 M in THF) and irradiate at 110° C. for 20 min. Dilute the cooled mixture with ethyl acetate (25 mL) and filter through Celite. Remove the filtrate solvent under reduced pressure and purify the residue using chromatography on silica gel, eluting with hexanes/ethyl acetate (60:40), to provide the title compound as an off-white solid (0.037 g, 52%): ESI MS 594 (M+H).

reactant | isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-8-chloro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.119 mmol, 0.075 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=C(C(=C2)Cl)Br | C25H24BrClF6N2O3
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.012 mmol, 0.006 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | sodium tert-butoxide | 0.298 mmol, 0.029 g | CC(C)([O-])C.[Na+]
reactant | dimethylamine | 0.143 mmol, 2.0 M, 0.071 mL | CNC | C2H7N
reactant | dimethylamine | 4 mmol, 2.0 M, 2 mL | CNC | C2H7N
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0029 mmol, 0.003 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-chloro-7-dimethylamino-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.037 g, 52% | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=C(C(=C2)N(C)C)Cl)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C27H30ClF6N3O3
